US07432288B2
Ethyl {3-[(4-methoxyphenyl)amino]-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl}acetate
To a solution of 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione (0.34 mmol, 100 mg) in dry THF (1.0 mL) under an atmosphere of N2 at room temperature was added ethyl glycolate (0.34 mmol, 35 mg). The reaction mixture was cooled to 0° C. and tributylphosphine (0.17 mmol, 34 mg) was added followed by 1,1′-(azodicarbonyl)dipiperidine (0.36 mmol, 84 mg). After stirring at 0° C. for 10 min., the reaction mixture was brought to room temperature and the stirring was continued for 26 h. The reaction mixture was diluted with CH3CN:water 1:1 (2 mL) and purified using HPLC (95% 0.1M ammonium acetate buffer:5% CH3CN→100% CH3CN, 38.5 min., 25 mL/min.) to give 53 mg (41%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.22-7.17 (bs, 1H), 7.15-7.05 (m, 3H), 7.01-6.96 (m, 2H), 6.63-6.52 (m, 4H), 4.36 (s, 2H), 4.24 (q, J=7.1 Hz, 2H), 3.69 (s, 3H), 1.30 (t, J=7.1 Hz, 3H).

reactant | 3-[(4-methoxyphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 0.34 mmol, 100 mg | COC1=CC=C(C=C1)NC=1C(NC(C1C1=CC=CC=C1)=O)=O | C17H14N2O3
reactant | ethyl glycolate | 0.34 mmol, 35 mg | C(CO)(=O)OCC | C4H8O3
reactant | tributylphosphine | 0.17 mmol, 34 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.36 mmol, 84 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | CH3CN water | 2 mL | CC#N.O
product | Ethyl {3-[(4-methoxyphenyl)amino]-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl}acetate | 53 mg, 41% | COC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CC(=O)OCC)=O | C21H20N2O5
